US07872028B2
tert-Butyl (2S,3R)-4-(N-(4-cyanobenzyl)-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate (921 mg, 1.68 mmol) was dissolved in EtOH (10 mL) and treated with toluenesulfonic acid monohydrate (337 mg, 1.77 mmol, 1.05 equiv). The mixture was allowed to stir at 65° C. for 40 min. LC-MS analysis showed that the starting material had been consumed and converted to the desired product. The solvent was removed and the residue was dissolved in CH2Cl2 (20 mL). The solution was treated with 1.0 M aq NaOH (20 mL) and the biphasic mixture was stirred for 0.5 h. The mixture was transferred to a separatory funnel and the layers were separated. The organic layer was dried over Na2SO4, filtered and evaporated to afford (2R,3S)-3-amino-1-(N-(4-cyanobenzyl)-N-(2-(trimethylsilyl)-ethoxycarbonyl)amino)-4-cyclohexylbutan-2-ol.

reactant | tert-Butyl (2S,3R)-4-(N-(4-cyanobenzyl)-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate | 1.68 mmol, 921 mg | C(#N)C1=CC=C(CN(C(=O)OCC[Si](C)(C)C)C[C@H]([C@H](CC2CCCCC2)NC(OC(C)(C)C)=O)O)C=C1 | C29H47N3O5Si
reactant | toluenesulfonic acid monohydrate | 1.77 mmol, 337 mg, 1.05 equiv | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | EtOH | 10 mL | CCO | C2H6O
product | (2R,3S)-3-amino-1-(N-(4-cyanobenzyl)-N-(2-(trimethylsilyl)-ethoxycarbonyl)amino)-4-cyclohexylbutan-2-ol | N[C@H]([C@@H](CN(C(=O)OCC[Si](C)(C)C)CC1=CC=C(C=C1)C#N)O)CC1CCCCC1 | C24H39N3O3Si
